US08912173B2
A mixture of 2 g 5-bromo-1,3-difluoro-2-methoxy-benzene, 1.76 g ethynyl-trimethyl-silane, 629 mg bis(triphenylphosphine)palladium(II) dichloride, 3.1 ml diisopropylethylamine, and 85 mg copper iodide in 20 ml acetonitrile was degassed then heated at 80° C. for 2 hours. The mixture was diluted with dichloromethane and filtered through a plug of silica, washed with dilute ammonia and brine then dried over sodium sulphate, filtered and concentrated in vacuo. Purification over silica afforded 1.71 g (3,5-difluoro-4-methoxy-phenylethynyl)-trimethyl-silane.

reactant | 5-bromo-1,3-difluoro-2-methoxy-benzene | 2 g | BrC=1C=C(C(=C(C1)F)OC)F | C7H5BrF2O
reactant | ethynyl-trimethyl-silane | 1.76 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropylethylamine | 3.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 629 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 85 mg | [Cu](I)I
product | (3,5-difluoro-4-methoxy-phenylethynyl)-trimethyl-silane | 1.71 g | FC=1C=C(C=C(C1OC)F)C#C[Si](C)(C)C | C12H14F2OSi
